Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: "I never had any type of mental illness before,
but I've been under a lot of stress. I'm a lawyer." 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ y/o man with recent diagnosis of adjustment
d/o with anxiety and mild depression, with remote medical 
history
of testicular cancer and melanoma, both in remission, who self
presents to the ___ with new onset SI with plan to hang himself. 
Psychiatry was consulted for safety evaluation. 

Per Dr. ___: 
"Patient reports he has been feeling an incredible amount of
stress lately secondary to his job.  He runs his own ___ 
and
has been struggling with cases and financially.  He can no 
longer
afford to pay his long term secretary (and also close friend)
whose husband was recently diagnosed with lung cancer and feels
very guilty/conflicted about this.  He reports very poor sleep
despite using Ambien 10mg nightly, poor appetite resulting in
___ weight loss over the last month, poor concentration,
feelings of guilt, poor energy, anhedonia, and poor motivation. 
He denies overt feelings of depression and more feels 
overwhelmed
with all of his stressors.  

He went to his office this afternoon to do work and after some
time decided to leave, go to ___, and buy a rope in order
to hang himself.  He spent time tying the rope, applied it to 
his
neck and was on top of his desk and tied the rope to a bar in 
the
roof.  He stood on top of his desk for some time thinking. 
Patient reports he became profusely sweaty and shaky and
ultimately untied himself and got down from the desk.  States he
thinks he did not go through with the attempt because of the
sadness it would cause others.  He sat at his desk for some time
afterwards and then called his brother.  He later sat down with
his brother and wife, provided a brief explanation stating he 
was
thinking about killing himself, and they came to the ___ for
evaluation.  

He continues to think about and stress about his job.  He denies
having active current thoughts of suicide, but knows the same
stressors are waiting for him."  

Course in Emergency Department (including behavior, medications
given): Patient utilized PO trazodone for sleep, as well as
Benadryl 50 mg PO, allopurinol ___ mg (home med) and naproxen 
500
mg for foot pain. Patient calm and cooperative throughout and 
did
not require physical or chemical restraints. 

On arrival to the unit, the patient confirms the above history.
He reports that he has lost 12 lbs recently due to loss of
appetite, been sleeping at most 3 hours per night (even with the
assistance of ambien), and feeling fatigued, and poor
concentration/motivation.  He reports having felt hopeless prior
to his suicide attempt but currently feeling glad he is alive,
and experiencing guilt/shame over the pain he caused his wife 
and
brother. He denies having felt depressed, saying that he
conceptualizes anxiety as his worst problem, though did endorse 
anhedonia. He reports
motivation to be in treatment. 

He denies any history of mania, denies any current manic or
psychotic symptoms, and denies physical symptoms except for foot
pain (which he does not feel is gout, but may be due to a foot
injury) and tremor, which he notices has developed recently.
 
Past Medical History:
Past psychiatric history:
Per Dr. ___ ___ note, discussed with patient and updated
as indicated: 
Hospitalizations: None
 Current treaters and treatment:
-Had a recent, initial evaluation by psychologist on ___,
___, PhD.
-No prior treaters
 Medication and ECT trials:
-Ambien 10mg for sleep
-no other medication trials 
 Self-injury: Denies 
 Harm to others: none known 
 Access to weapons: no access to firearms 

Past medical history:
Per Dr. ___ ___ note, discussed with patient and updated
as indicated: 
-No active concerns
-Hx of gout for which he is on allopurinol daily
-Hx of melanoma, localized and resected
-Hx of testicular cancer at age ___, remission
 
Social History:
Substance use history:
Per Dr. ___ ___ note, discussed with patient and updated
as indicated: 
-Occasional alcohol use, states it has become less frequent
recently (only drinks on social occasions and there have been
none recently) 
-Denies any other drug use, no tobacco. Experimented with
marijuana in college but none since.  

Personal and Social History:
___
Family History:
-He is ___ siblings and believes several of them struggle with
anxiety/depression
-Brother deceased secondary to complications of alcohol use. 
Questions history of biopolar disorder, pt believes he was on
Lithium at one point 
-No FH of suicide or psychiatric hospitalizations that patient 
is
aware of 
 
Physical Exam:
hysical Examination:
VS: T 98.3  BP 127 / 81 HR 70 RR 18O2 98
General- NAD, appears stated age
Skin- Warm, well perfused, no lesions noted
HEENT- PERRLA, EOMI, no nasal discharge, NC/AT
Neck and Back- normal ROM
Lungs- CTA b/l, no w/r/r
CV- RRR, no m/r/g
Abdomen: soft, NT/ND, normal bowel sounds present
Extremities- no cyanosis or edema
Neuro- 
CN: 
     pupils symmetry and responsiveness to light and
accommodation: PERRLA
     visual fields: no deficits noted
     EOMI
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact
     hearing bilaterally to rubbing fingers: intact b/l
     phonation: WNL
     head turning and shoulder shrug ___ b/l
     tongue: symmetric and ___
 
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left    ___      ___      ___       ___          ___ 
Right   ___      ___      ___      ___           ___      
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left    ___      ___      ___      ___      ___      ___ 
Right   ___      ___      ___      ___      ___      ___ 

Sensation: Intact to light touch throughout bilaterally
Coordination:
     Finger-nose-finger - intention tremor noted bilaterally, no
dysmetria (able to locate & bring finger to touch target
appropriately) 

Gait/Romberg: WNL

Neuropsychiatric Examination:
  *Appearance: Well groomed, appears stated age
  Behavior: Pleasant, cooperative with interview, at times
appears somewhat disinhibited (i.e. opening hospital gown to 
show
stomach when discussing weight) 
  *Mood and Affect: "Pretty good today"/Mood congruent, euthymic
  *Thought process: Mostly linear, at times circumstantial, no
loosening of associations
  *Thought Content: Denies current SI, HI, AVH, no evidence of
paranoia or delusional thought content, does not appear
internally preoccupied
  *Judgment and Insight: fair/fair
  Cognition:
    *Attention, *orientation, and executive function: Attentive
to interview 
    *Memory: Intact to recent and remote events
    *Fund of knowledge: Consistent with level of education
    *Speech: Regular rate, rhythm, volume, normal prosody
    *Language: Fluent ___, no paraphasic errors noted

 
Pertinent Results:
___ 10:03PM BLOOD WBC-12.6* RBC-5.08 Hgb-16.6 Hct-46.2 
MCV-91 MCH-32.7* MCHC-35.9 RDW-12.7 RDWSD-41.8 Plt ___
___ 10:03PM BLOOD Neuts-73.7* Lymphs-15.6* Monos-9.2 
Eos-0.5* Baso-0.6 Im ___ AbsNeut-9.26* AbsLymp-1.96 
AbsMono-1.16* AbsEos-0.06 AbsBaso-0.08
___ 10:03PM BLOOD Glucose-79 UreaN-14 Creat-1.1 Na-140 
K-4.1 Cl-100 HCO3-25 AnGap-15
___ 06:10AM BLOOD ALT-22 AST-22 LD(LDH)-165 AlkPhos-66 
TotBili-0.7
___ 06:10AM BLOOD Albumin-4.5 Cholest-160
___ 06:10AM BLOOD VitB12-421
___ 06:10AM BLOOD %HbA1c-4.8 eAG-91
___ 06:10AM BLOOD Triglyc-86 HDL-58 CHOL/HD-2.8 LDLcalc-85
___ 06:10AM BLOOD TSH-2.2
___ 06:10AM BLOOD 25VitD-19*
___ 10:03PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:52PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 09:52PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:52PM URINE Color-Straw Appear-Clear Sp ___
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) The patient's presentation was felt consistent with major 
depressive disorder, with symptoms including poor sleep, poor 
appetite with weight loss, anhedonia, difficulty concentrating, 
and hopelessness, as well as generalized anxiety disorder. The 
night of admission he utilized ativan 1 mg QHS:PRN with very 
good effect (with the patient reporting 7 hours of sleep 
overnight, improved from at most 3 prior to admission). He was 
then started on remeron at a dose of 15 mg QHS, with good 
effect. The patient participated in individual and group 
psychotherapy aimed at improving coping skills. A family meeting 
was held with the patient's wife during which time plans for 
treatment moving forwards were discussed. On the day of 
discharge, the patient denied SI, was future oriented, and 
expressed motivation to continue with treatment.

4. MEDICAL
#) Gout
Patient was continued on home allopurinol ___ mg daily for 
prevention. He did not have any symptoms of acute gout so he was 
not given colchicine while here.  

#)foot pain
Patient received PRN naproxen for foot pain. The pain was not 
felt by the patient or providers to be consistent with gout. 

#) vitamin D deficiency
Patient was found to have a vitamin D level of 19, so he was 
offered 1000 units daily for repletion. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  He was visible in the milieu, 
often seen interacting with other patients.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
A family meeting was held with the patient's wife on ___. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Remeron, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
static factors noted including recent steps towards suicide 
attempt,  male gender, Caucasian race,  and history of medical 
illness (cancer survivor x2).  He also had modifiable risk 
factors including psychosocial stressors (stress at work) and no 
outpatient psychiatric providers. His modifiable risk factors 
were addressed during this hospitalization through starting the 
patient on antidepressant medications and medication for sleep, 
providing individual and group therapy aimed at improving coping 
skills, and referrals made to outpatient psychiatric providers. 
Finally, the patient is being discharged with many protective 
risk factors,  including psychosocial support from wife and 
family, denying current SI, help seeking and motivated for 
treatment, and future orientation. Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
3. Colchicine 0.6 mg PO DAILY during acute gout flares 

 
Discharge Medications:
1.  LORazepam 1 mg PO QHS:PRN insomnia  
2.  Mirtazapine 15 mg PO QHS  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Allopurinol ___ mg PO DAILY  
5.  Colchicine 0.6 mg PO DAILY during acute gout flares  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Generalized Anxiety disorder

 
Discharge Condition:
 Vital signs: BP 123 / 88 HR 83  RR 16 O2 sat 97 
 Neuropsychiatric Examination:
  *Appearance: Well groomed, appears stated age, in no acute 
distress
  Behavior: Pleasant, cooperative with interview, calm, no 
abnormal movements noted
  *Mood and Affect: 'Motivated for treatment'/Mood congruent, 
full range, appropriate to situation
  *Thought process: Linear, goal directed, no loosening of 
associations
  *Thought Content: Denies current SI (states 'I have no 
intention of doing this again'), HI, AVH, no evidence of
paranoia or delusional thought content, does not appear
internally preoccupied
  *Judgment and Insight: fair/fair
   *Fund of knowledge: Consistent with level of education
    *Speech: Regular rate, rhythm, volume, normal prosody
    *Language: Fluent ___, no paraphasic errors noted
Gait within normal limits

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___